US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(1-methyl-piperidin-4-yl)-phenyl]-amine
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(1-methyl-piperidin-4-yl)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 4-(3-bromo-phenyl)-1-methyl-piperidine; hydrochloride (90.0 mg, 0.310 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a tan solid (0.031 g, 26%). MP=208-210° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.51 (d, J=6.5 Hz, 1H), 8.08 (d, J=8.3 Hz, 2H), 8.10 (d, J=7.3 Hz, 2H), 7.66 (d, J=6.6 Hz, 1H), 7.55 (s, 1H), 7.38 (d, J=8.7 Hz, 1H), 7.31-7.25 (m, 1H), 7.02 (t, J=7.4 Hz, 1H), 6.91-6.85 (m, 2H), 3.10 (s, 3H), 3.01 (d, J=10.9 Hz, 2H), 2.57-2.45 (m, 1H), 2.35 (S, 3H), 2.11-2.03 (m, 2H), 1.92-1.83 (m, 4H). MS=462 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-(3-bromo-phenyl)-1-methyl-piperidine | BrC=1C=C(C=CC1)C1CCN(CC1)C | C12H16BrN
reactant | hydrochloride | 0.310 mmol, 90.0 mg | Cl | ClH
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(1-methyl-piperidin-4-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)C2CCN(CC2)C | C25H27N5O2S
